US07514419B2
To a stirred solution of 3,5-diiodo-4-(4′-methoxy-3′-iso-propylphenoxy)phenyl benzoate (0.4 g, 0.76 mmol) in DMF(5.0 mL) at rt was added CuCN (0.27 g, 3.0 mmol). The reaction mixture was heated at 160° C. for 5 min under microwave irradiation, the reaction mixture was cool to room temperature and poured into 1N HCl (50 mL) and extracted with ethyl acetate (100 mL×2). The organic layers were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel, eluting with ethyl acetate-hexanes (3:7) to afford 3,5-dicyano-4-(4′-methoxy-3′-iso-propylphenoxy)phenol as a viscous oil (105 mg, 35%): 1H NMR (300 MHz, CDCl3): δ 7.35 (s, 2 H), 6.99 (d, J=3.0 Hz, 1 H), 6.78 (d, J=8.7 Hz, 1 H), 6.99 (dd, J=3.0, 8.7 Hz, 1 H), 3.84 (s, 3 H), 3.38-3.30 (m, 1 H), 1.21 (d, J=6.9 Hz, 6 H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=hexanes-ethyl acetate (7:3); Rf=0.38.

reactant | 3,5-diiodo-4-(4′-methoxy-3′-iso-propylphenoxy)phenyl benzoate | 0.76 mmol, 0.4 g | C(C1=CC=CC=C1)(=O)OC1=CC(=C(C(=C1)I)OC1=CC(=C(C=C1)OC)C(C)C)I | C23H20I2O4
reactant | CuCN | 3.0 mmol, 0.27 g | C(#N)[Cu]
reactant | HCl | 1N, 50 mL | Cl | ClH
reactant | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 3,5-dicyano-4-(4′-methoxy-3′-iso-propylphenoxy)phenol | 105 mg, 35% | C(#N)C=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C#N)O | C18H16N2O3
